US05378690
2 ml of thionyl chloride were added, at -20° C., to 20 ml of methanol, and the resulting solution was stirred for 10 minutes. At the end of this time. 2.85 g (9.0 mmole) of N-(t-butoxycarbonyl)-(3S, 4S)-4-amino- 5-cyclohexyl-3-hydroxypentanoic acid were added to the solution, and the reaction mixture was stirred at room temperature for 14 hours. The solvent was then removed by distillation, and the residue was dried by azeotropic distillation with benzene 3 times, to afford methyl (3S, 4S)-4-amino-5-cyclohexyl-3-hydroxypentanoate hydrochloride. The whole of this hydrochloride was dissolved in 30 ml of dimethylformamide, and 2.71 g (9.9 mmole) of N-(t-butoxycarbonyl)-3-(4thiazolyl)-L-alanine, 1,97 g (10.9 mmole) of diethyl cyanophosphonate (95%) and 2.76 ml (19.9 mmole) of triethylamine were added to the solution. The reaction mixture was then stirred at room temperature for 3 hours, after which the solvent was removed by evaporation under reduced pressure and the residue was dissolved in ethyl acetate. The resulting organic solution was washed with a 5% w/v aqueous solution of sodium bicarbonate, with a 5% w/v aqueous solution of citric acid and with a saturated aqueous solution of sodium chloride, in that order. It was then dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: a 50: 1 by volume mixture of methylene chloride and methanol), after which it was triturated with diethyl ether, to give 3.76 g of the title compound as white crystals, melting at 128°-130° C.

reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-(t-butoxycarbonyl)-(3S, 4S)-4-amino- 5-cyclohexyl-3-hydroxypentanoic acid | 9.0 mmole, 2.85 g | C(C)(C)(C)OC(=O)N[C@H]([C@H](CC(=O)O)O)CC1CCCCC1 | C16H29NO5
reactant | methanol | 20 ml | CO | CH4O
product | methyl (3S, 4S)-4-amino-5-cyclohexyl-3-hydroxypentanoate hydrochloride | Cl.N[C@H]([C@H](CC(=O)OC)O)CC1CCCCC1 | InChI=1S/C12H23NO3.ClH/c1-16-12(15)8-11(14)10(13)7-9-5-3-2-4-6-9;/h9-11,14H,2-8,13H2,1H3;1H/t10-,11-;/m0./s1
